US06686347B2
1b) 1-Chlorophthalazine hydrochloride
A suspension of 50 g (342 mmol) phthalazone, 1370 ml acetonitrile, 66 ml (0.72 mol) POCl3 and 85 ml 4 N HCl in dioxane is stirred for 8 h at 50° C. The resulting solution is cooled to RT, evaporated to a volume of about 0.8 l and diluted with 1.2 l DIPE. Filtration and washing with DIPE yield the title compound: FAB-MS (M+H)+=165/167.

reactant | phthalazone | 342 mmol, 50 g | C1=CC=C2C(=C1)C=NNC2=O | C8H6N2O
reactant | acetonitrile | 1370 ml | C(C)#N | C2H3N
reactant | POCl3 | 0.72 mol, 66 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 4 N, 85 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Chlorophthalazine hydrochloride | Cl.ClC1=NN=CC2=CC=CC=C12 | InChI=1S/C8H5ClN2.ClH/c9-8-7-4-2-1-3-6(7)5-10-11-8;/h1-5H;1H
